US09056873B2
Step A: 1,3-Dimethyl-1H-thieno[2,3-c]pyrazole
A mixture of 1,3-dimethyl-1H-thieno[2,3-c]pyrazole-5-carboxylic acid (2 g, 10.19 mmol), copper (1.943 g, 30.6 mmol) and quinoline (10 mL, 85 mmol) were heated to 200° C. for 1 hour in a Biotage Initiator microwave. Following heating, the mixture was extracted with ethyl acetate (3×100 mL) and 3N HCl (200 mL). The organic layers were combined, dried over sodium sulfate, concentrated, and purified via silica gel flash chromatography, eluting with a gradient of 10-40% EtOAc and hexane to give the title compound as a clear oil (1.07 g, 69%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.32 (s, 9H), 3.83 (s, 3H), 6.98 (d, J=5.40 Hz, 1H), 7.09 (d, J=4.90 Hz, 1H). ESI-MS m/z [M+H]+ calc'd for C7H8N2S, 153. found, 153.

reactant | 1,3-dimethyl-1H-thieno[2,3-c]pyrazole-5-carboxylic acid | 10.19 mmol, 2 g | CN1N=C(C2=C1SC(=C2)C(=O)O)C | C8H8N2O2S
reactant | quinoline | 85 mmol, 10 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 30.6 mmol, 1.943 g | [Cu] | Cu
product | 1,3-Dimethyl-1H-thieno[2,3-c]pyrazole | 1.07 g, 69% | CN1N=C(C2=C1SC=C2)C | C7H8N2S
